US06114530
B. 4-(2,4,6-Trimethylphenyl)-1(2H)phthalazinone
A mixture of 2-(2,4,6-trimethylbenzoyl-benzoic acid (5.0 g, 18.7 mmol) and hydrazine hydrate (2 mL) in 15 mL of EtOH was stirred at reflux for 8 hours. The solvent was then removed from the mixture. The residue was heated to melt for about 10 minutes and then solidified by cooling. The resulting yellow solids were triturated with ether and filtered. The solid was washed with 1 N NaOH and water, and dried to give 1.8 g of titled compound as yellow solids, m.p. 259-62° C.

reactant | 2,4,6-trimethylbenzoyl-benzoic acid | 18.7 mmol, 5.0 g | CC1=C(C(=O)C2=C(C(=O)O)C=CC=C2)C(=CC(=C1)C)C | C17H16O3
reactant | hydrazine hydrate | 2 mL | O.NN
solvent | EtOH | 15 mL | CCO | C2H6O
product | 4-(2,4,6-Trimethylphenyl)-1(2H)phthalazinone | 1.8 g | CC1=C(C(=CC(=C1)C)C)C1=NNC(C2=CC=CC=C12)=O | C17H16N2O
